US06586475B1
4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide
A suspension of methyl 4-(4-biphenylylmethoxy)phenylacetate (1.00 g), N,N-dimethylethylenediamine (0.80 g), and imidazole (205 mg) in methanol (2.0 ml) was heated under reflux under nitrogen for 30 min and cooled until the temperature of the reaction mixture reached to 60±2° C. Methanol (4.0 ml) was added to the reaction mixture, which was heated under reflux for additional one hr and cooled to room temperature. The precipitate was collected by filtration and washed with methanol (2.0 ml) to obtain the titled compound (1.03 g).

reactant | methyl 4-(4-biphenylylmethoxy)phenylacetate | 1.00 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C22H20O3
reactant | N,N-dimethylethylenediamine | 0.80 g | CN(CCN)C | C4H12N2
reactant | imidazole | 205 mg | N1C=NC=C1 | C3H4N2
solvent | methanol | 2.0 ml | CO | CH4O
solvent | Methanol | 4.0 ml | CO | CH4O
product | 4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide | 1.03 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
